US04659365
To 50 ml of dimethylformamide containing 7.65 g (50 mmol) of 3-methyl-2-nitrophenol, 13.6 g (100 mmol) of potassium carbonate and 12.6 g (60 mmol) of 1-iodo-2,2,2-trifluoroethane were added, and the mixture was heated at 120° to 130° C. under agitation for 2 hours. Water and ether were added to the reaction mixture, and thereafter, the ether layer was concentrated to obtain 11.2 g of 2-nitro-3-(2,2,2-trifluoroethoxy)toluene as an oil.

reactant | dimethylformamide | 50 mmol, 50 ml, 7.65 g | CN(C=O)C | C3H7NO
reactant | 3-methyl-2-nitrophenol | CC=1C(=C(C=CC1)O)[N+](=O)[O-] | C7H7NO3
reactant | potassium carbonate | 100 mmol, 13.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodo-2,2,2-trifluoroethane | 60 mmol, 12.6 g | ICC(F)(F)F | C2H2F3I
solvent | ether | CCOCC | C4H10O
solvent | Water | O | H2O
product | 2-nitro-3-(2,2,2-trifluoroethoxy)toluene | 11.2 g | [N+](=O)([O-])C1=C(C=CC=C1OCC(F)(F)F)C | C9H8F3NO3
